US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-diisopropyl-1H-pyrrole-3-carboxylic Acid (3-pyrrolidin-1-ylpropyl)amide
5-Bromo-1,3-dihydroindol-2-one (130 mg, 0.6 mmol) was condensed with 5-formyl-2,4-diisopropyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-ylpropyl)amide (150 mg, 0.45 mmol) to give 36 mg (15%) of the title compound as a tan-orange solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.6 mmol, 130 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2,4-diisopropyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-ylpropyl)amide | 0.45 mmol, 150 mg | N1(CCCC1)CCCNC(=O)C1=C(NC(=C1C(C)C)C=O)C(C)C | C19H31N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-diisopropyl-1H-pyrrole-3-carboxylic Acid (3-pyrrolidin-1-ylpropyl)amide | 36 mg, 15% | N1(CCCC1)CCCNC(=O)C1=C(NC(=C1C(C)C)C=C1C(NC2=CC=C(C=C12)Br)=O)C(C)C | C27H35BrN4O2
